US04173633
2.66 ml of glacial acetic acid are added dropwise to the ice-cooled mixture of 5.0 g of slow moving 1-(2-isopropylaminopropyl)-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one hydrochloride, 15.2 g of heptaldehyde, 2.52 g of sodium cyanoborohydride and 53 ml of acetonitrile. The mixture is stirred at room temperature for 2 hours, cooled, acidified to pH=1 with concentrated hydrochloric acid and evaporated to remove the acetonitrile. The residue is diluted with water, the solution washed with diethyl ether, basified to pH=10-11 with 3 N aqueous sodium hydroxide and extracted with chloroform. The extract is dried, evaporated and the residue crystallized from ethanol-water (5:2) to give the 1-[2-(N-isopropyl-N-heptylamino)propyl]-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one, RR racemate melting at 102°-104°.

reactant | 1-(2-isopropylaminopropyl)-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one hydrochloride | Cl.C(C)(C)NC(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C
reactant | heptaldehyde | 15.2 g | C(CCCCCC)=O | C7H14O
reactant | sodium cyanoborohydride | 2.52 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 53 ml | C(C)#N | C2H3N
solvent | acetic acid | 2.66 ml | C(C)(=O)O | C2H4O2
product | 1-[2-(N-isopropyl-N-heptylamino)propyl]-9-methoxy-3,4,5,5a,6,7-hexahydro-2H-naphth[1,2-d]azepin-2-one | C(C)(C)N(CCCCCCC)C(CC=1C(NCCC2C1C1=CC=C(C=C1CC2)OC)=O)C | C28H44N2O2
